US08791267B2
Synthesis of Carbamic acid (S)-1-(6-methoxy-3′-nitro-biphenyl-3-ylmethyl)-5-oxo-pyrrolidin-3-yl ester (P-253).
Into a 20 mL vial with a stir bar was added chlorosulfonyl isocyanate (42 mg, 0.30 mmol), 1 mL dichloromethane, then P-248 (51.3 mg, 0.15 mmol) in 2 mL of dichloromethane. The reaction was stirred at room temperature for 18 hours after which 2 mL of water was added and the mixture was stirred at room temperature for 30 minutes. The layers were separated and the aqueous was extracted with dichloromethane. The combined organics were concentrated and then purified by preparative layer TLC using 50% acetone/dichloromethane to obtain P-253 (12.4 mg, 21%) as an off-white semi-solid. 1H NMR (400 MHz, DMSO-d6) 8.30 (s, 1H), 8.20 (dd, J=2.1, 8.6 Hz, 1H), 7.94 (d, J=7.8 Hz, 1H), 7.72 (t, J=8.0 Hz, 1H), 7.33-7.26 (m, 2H), 7.16 (d, J=9.0 Hz, 1H), 6.59 (br. s., 2H), 5.04 (t, J=5.8 Hz, 1H), 4.49-4.30 (m, 2H), 3.80 (s, 3H), 3.46-3.38 (m, 1H), 3.21 (d, J=11.4 Hz, 1H), 2.78 (dd, J=6.9, 17.5 Hz, 1H), 2.23 (d, J=18.1 Hz, 1H) ppm. LC/MS=100.0%, 386.1 (APCI+).

reactant | chlorosulfonyl isocyanate | 0.30 mmol, 42 mg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | (S)-4-Hydroxy-1-(6-methoxy-3′-nitro-biphenyl-3-ylmethyl)-pyrrolidin-2-one | 0.15 mmol, 51.3 mg | O[C@H]1CC(N(C1)CC=1C=C(C(=CC1)OC)C1=CC(=CC=C1)[N+](=O)[O-])=O | C18H18N2O5
reactant | water | 2 mL | O | H2O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | Carbamic acid (S)-1-(6-methoxy-3′-nitro-biphenyl-3-ylmethyl)-5-oxo-pyrrolidin-3-yl ester | COC1=CC=C(C=C1C1=CC(=CC=C1)[N+](=O)[O-])CN1C[C@H](CC1=O)OC(N)=O | C19H19N3O6
